US06323235B1
Methyl (1-(2-(diphenylmethoxy)ethyl)indoline-4-yloxy)acetate
Under argon atmosphere, potassium t-butoxide (586 mg) and methyl bromoacetate (2.50 ml) were added to 1-(2-(diphenylmethoxy)ethyl)-4-hydroxyindoline (855 mg) in DMF (15 ml), and the obtained mixture was stirred at room temperature for 2 hours. To the reaction mixture, saturated aqueous ammonium chloride solution (5 ml) was added to stop the reaction and the resultant was extracted with ethyl acetate. The obtained organic layer was washed and dried over sodium sulfate. After removing solids by filtration, the solvent was removed under reduced pressure and the obtained crude product was purified by silica gel column chromatography to obtain the desired compound (571 mg, yield: 55%)

reactant | potassium t-butoxide | 586 mg | CC(C)([O-])C.[K+]
reactant | methyl bromoacetate | 2.50 ml | BrCC(=O)OC | C3H5BrO2
reactant | 1-(2-(diphenylmethoxy)ethyl)-4-hydroxyindoline | 855 mg | C1(=CC=CC=C1)C(OCCN1CCC2=C(C=CC=C12)O)C1=CC=CC=C1 | C23H23NO2
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Methyl (1-(2-(diphenylmethoxy)ethyl)indoline-4-yloxy)acetate | 571 mg, yield: 55% | C1(=CC=CC=C1)C(OCCN1CCC2=C(C=CC=C12)OCC(=O)OC)C1=CC=CC=C1 | C26H27NO4
